US05780501
b) (8-Methoxy-dibenz[b,f]oxepin-10-yl)methanol
Preparation analogous to Example 12f) from 8-methoxy-dibenz[b,f]oxepine-10-carboxylic acid. Yield: 96% in the form of a brown oil; TLC (silica gel; ethyl acetate/hexane=1:1; UV): Rf =0.31; 1H-NMR (CDCl3, 300 MHz): 1.80 (sbr, 1H); 3.78 (s, 3H); 4.69 (s, 2H); 6.82-7.33 (m, 8H) MS: 254 (M+), 211, 182, 181, 168, 165, 153, 152.

reactant | 8-methoxy-dibenz[b,f]oxepine-10-carboxylic acid | COC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C(=O)O)C1 | C16H12O4
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (8-Methoxy-dibenz[b,f]oxepin-10-yl)methanol | Yield: 96% | COC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)CO)C1 | C16H14O3
